US04386081
(r) Dimethyl ethoxycarbonylphosphonate
From 10,0 ml (85 mmole) of trimethylphosphite and 10.0 ml (105 mmole) of ethyl chloroformate (100° C., 1,5 hours). Yield 12,5 g (80%). Bp15 122° C.

reactant | trimethylphosphite | 85 mmole, 10,0 ml | COP(OC)OC | C3H9O3P
reactant | ethyl chloroformate | 105 mmole, 10.0 ml | ClC(=O)OCC | C3H5ClO2
product | Dimethyl ethoxycarbonylphosphonate | C(C)OC(=O)P(OC)(OC)=O | C5H11O5P
